US08669381B2
4-(7-hydroxy-4-oxo-2-(thiophen-3-yl)-4H-chromen-3-yl)benzoic acid
Prepared following General Scheme 1, starting from Intermediate A-1a and thiophene-3-carbonyl chloride in step 1 using condition b) to 3-(4-(ethoxycarbonyl)phenyl)-4-oxo-2-(thiophen-3-yl)-4H-chromen-7-ylthiophene-3-carboxylate. Step 2 followed d) conditions. See Example 3 for detailed example.

reactant | thiophene-3-carbonyl chloride | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
reactant | 3-(4-(ethoxycarbonyl)phenyl)-4-oxo-2-(thiophen-3-yl)-4H-chromen-7-ylthiophene-3-carboxylate | C(C)OC(=O)C1=CC=C(C=C1)C1=C(OC2=CC(=CC=C2C1=O)C=1SC=CC1C(=O)[O-])C1=CSC=C1
product | 4-(7-hydroxy-4-oxo-2-(thiophen-3-yl)-4H-chromen-3-yl)benzoic acid | OC1=CC=C2C(C(=C(OC2=C1)C1=CSC=C1)C1=CC=C(C(=O)O)C=C1)=O | C20H12O5S
